US04465510
"C" grade carbonyl iron powder, 6-8 micron size from GAF was mixed with iron ore concentrate and the blend was then agglomerated by briquietting at 51,000 psi into briquettes 12.5 mm×12.5 mm diameter. The briquettes were indurated by heating from room temperature to 600° C. in 25 minutes, held by 600° C. for 20 minutes and then air quenched to room temperature. The compressive strength of the briquettes was then determined. Table I below sets forth the results obtained with different levels of iron carbonyl added, with three different types of iron ore concentrates.

reactant | carbonyl iron | C(=O)=[Fe]
reactant | iron ore | [O-2].[O-2].[O-2].[Fe+3].[Fe+3]
product | iron carbonyl | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Fe] | InChI=1S/5CO.Fe/c5*1-2;
